US07935722B2
N-(6-Bromo-7-fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide and N-(6-
Prepare the title compounds by essentially following the procedure as described in Preparation 4 (Method 2) with (4-bromo-3-fluoro-phenyl)-hydrazine (Preparation 12) and N-(4-oxo-cyclohexyl)-isobutyramide, to obtain a tan solid containing a 65:35 mixture of isomers in 20% overall yield. MS (ES): m/z 353, 355 (M+H), 351, 353 (M−H); HPLC (Method A): Rt=2.22 min, (95%).

reactant | (4-bromo-3-fluoro-phenyl)-hydrazine | BrC1=C(C=C(C=C1)NN)F | C6H6BrFN2
reactant | N-(4-oxo-cyclohexyl)-isobutyramide | O=C1CCC(CC1)NC(C(C)C)=O | C10H17NO2
product | N-(6-Bromo-7-fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide | BrC=1C=C2C=3CC(CCC3NC2=CC1F)NC(C(C)C)=O | C16H18BrFN2O
